### PR TITLE
[Merged by Bors] - chore: backport changes to `getElem` lemmas

### PR DESCRIPTION
**Pull request by kim-em**
These changes are backports from `bump/nightly-2025-02-20`.

### CODE REVIEW

File: Mathlib/Data/List/Cycle.lean [hunk 1]
```diff
@@ -272,67 +272,72 @@ theorem next_get (l : List α) (h : Nodup l) (i : Fin l.length) :
...
           apply h; rw [← H]; simp
         · intro H
-          suffices n.succ.succ = 1 by simpa
-          suffices Fin.mk _ hn = ⟨1, by omega⟩ by rwa [Fin.mk.inj_iff] at this
+          suffices i.succ.succ = 1 by simpa
+          suffices Fin.mk _ hi = ⟨1, by omega⟩ by rwa [Fin.mk.inj_iff] at this
           rw [nodup_iff_injective_get] at h
           apply h; rw [← H]; simp
 
+@[deprecated (since := "2025-02-015")] alias prev_get := prev_getElem
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/List/Cycle.lean:321]:
```suggestion
@[deprecated (since := "2025-02-21")] alias prev_get := prev_getElem
```

File: Mathlib/Data/List/Cycle.lean [hunk 2]
```diff
@@ -272,67 +272,72 @@ theorem next_get (l : List α) (h : Nodup l) (i : Fin l.length) :
...
   · intro n hn hn'
-    rw [get_rotate, get_pmap, prev_get _ h]
+    rw [getElem_rotate, getElem_pmap, prev_getElem _ h]
 
 theorem prev_next (l : List α) (h : Nodup l) (x : α) (hx : x ∈ l) :
     prev l (next l x hx) (next_mem _ _ _) = x := by
-  obtain ⟨⟨n, hn⟩, rfl⟩ := get_of_mem hx
-  simp only [next_get, prev_get, h, Nat.mod_add_mod]
+
+  obtain ⟨n, hn, rfl⟩ := getElem_of_mem hx
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/List/Cycle.lean:339]:
```suggestion
  obtain ⟨n, hn, rfl⟩ := getElem_of_mem hx
```

**Review by Ruben-VandeVelde — APPROVED** [review]
Thanks!

**Comment by Ruben-VandeVelde** [comment]
maintainer merge

**Comment by adomani** [comment]
Thanks!

bors merge
